US04675324
A solution of 6-chloro-3,4-dihydro-3-dimethylaminomethylene-4-oxo-2H-1-benzopyran (1.188 g), hydrazine hydrate (0.325 g), and acetic acid (0.39 g) in a mixture of chloroform (10 ml) and methanol (20 ml) was stirred overnight at room temperature and then evaporated in vacuo. The residual solid was washed with water, dried, and recrystallized form ethyl acetate to give 8-chloro-1,4-dihydro-[1]-benzopyrano[4,3-c]pyrazole (0.95 g).

reactant | 6-chloro-3,4-dihydro-3-dimethylaminomethylene-4-oxo-2H-1-benzopyran | 1.188 g | ClC=1C=CC2=C(C(C(CO2)=CN(C)C)=O)C1 | C12H12ClNO2
reactant | hydrazine hydrate | 0.325 g | O.NN
reactant | acetic acid | 0.39 g | C(C)(=O)O | C2H4O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 20 ml | CO | CH4O
product | 8-chloro-1,4-dihydro-[1]-benzopyrano[4,3-c]pyrazole | 0.95 g | ClC=1C=CC2=C(C1)C=1NN=CC1CO2 | C10H7ClN2O
